US05693639
4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]-trans-but-1-ene.
To a solution of sodium bis(methoxyethoxy) aluminum hydride (720 mL of a 3.4M solution in toluene, 2.45 mmol) in anhydrous diethyl ether (6 mL) cooled to -2° C. under a nitrogen atmosphere was added dropwise an ethereal solution (25 mL) of 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne (500 mg). The rate of addition was adjusted such that the reaction temperature (internal) did not exceed 10° C. Upon complete addiron the reaction was kept near 0° C. After 30 minutes the reaction was quenched by the addition of 3M sulfuric acid (20 mL). The product was extracted into diethyl ether. The combined organic extracts were dried, filtered, and evaporated. The crude product was adsorbed onto silica gel and purified by chromatography (1:8 diethyl ether: chloroform) to yield a white compound (447 mg). This material was further purified by recrystalization employing diethyi ether:hexanes (1:5) to provide the title compound (251 mg); mp 119°-121° C.; MS: m/z=350(M+1); NMR: (CDCl3): 1.59 (s,3), 1.73-1.78 (m,4), 2.45 (s,1), 3.22-3.27 (m,4), 6.41 (d,1, J=16.0), 6.93 (d,1,J=16.0), 7.52-7.55 (m,2), 7.77-7.81 (m,2). Analysis for C15H18F3NO3S: Calculated: C, 51.57; H, 5.19; N, 4.01; Found: C, 51.45; H, 5.19; N, 3.90.

reactant | sodium bis(methoxyethoxy) aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne | 25 mL, 500 mg | FC(C(C#CC1=CC=C(C=C1)S(=O)(=O)N1CCCC1)(C)O)(F)F | C15H16F3NO3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | 4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]-trans-but-1-ene | 447 mg | FC(C(/C=C/C1=CC=C(C=C1)S(=O)(=O)N1CCCC1)(C)O)(F)F | C15H18F3NO3S
